US04745123
Preparation of 1-ethyl-1,2,5,6-tetrahydro-N,N-bis(1-methylethyl)-4-phenyl-3-pyridinecarboxamide, monohydrochloride
Employing the general method of Example 8, 1-ethyl-1,2,5,6-tetrahydro-N,N-bis(1-methylethyl)-4-phenyl-3-pyridinecarboxamide was prepared as the monohydrochloride salt, mp 208°-210° C.

reactant | 1-ethyl-1,2,5,6-tetrahydro-N,N-bis(1-methylethyl)-4-phenyl-3-pyridinecarboxamide | C(C)N1CC(=C(CC1)C1=CC=CC=C1)C(=O)N(C(C)C)C(C)C | C20H30N2O
reactant | monohydrochloride | Cl | ClH
product | 1-ethyl-1,2,5,6-tetrahydro-N,N-bis(1-methylethyl)-4-phenyl-3-pyridinecarboxamide, monohydrochloride | Cl.C(C)N1CC(=C(CC1)C1=CC=CC=C1)C(=O)N(C(C)C)C(C)C | InChI=1S/C20H30N2O.ClH/c1-6-21-13-12-18(17-10-8-7-9-11-17)19(14-21)20(23)22(15(2)3)16(4)5;/h7-11,15-16H,6,12-14H2,1-5H3;1H
